US08912188B2
To a solution of (S)-methyl 2-(2,4-difluorophenyl)-3-(2-methylpiperidin-1-yl)quinoxaline-6-carboxylate (100 mg, 0.25 mmol) in methanol (30 mL) and water (1.0 mL) was added sodium hydroxide (40 mg, 1.00 mmol) with stirring overnight at room temperature. The reaction mixture was concentrated in vacuo, dissolved in water (10 mL) and adjusted to pH 5 with HCl (3N). The solids were collected by filtration to afford (S)-2-(2,4-difluorophenyl)-3-(2-methylpiperidin-1-yl)quinoxaline-6-carboxylic acid as a light yellow solid (55.5 mg, 57.5%).

reactant | (S)-methyl 2-(2,4-difluorophenyl)-3-(2-methylpiperidin-1-yl)quinoxaline-6-carboxylate | 0.25 mmol, 100 mg | FC1=C(C=CC(=C1)F)C1=NC2=CC=C(C=C2N=C1N1[C@H](CCCC1)C)C(=O)OC | C22H21F2N3O2
reactant | sodium hydroxide | 1.00 mmol, 40 mg | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
solvent | water | 1.0 mL | O | H2O
product | (S)-2-(2,4-difluorophenyl)-3-(2-methylpiperidin-1-yl)quinoxaline-6-carboxylic acid | 55.5 mg, 57.5% | FC1=C(C=CC(=C1)F)C1=NC2=CC=C(C=C2N=C1N1[C@H](CCCC1)C)C(=O)O | C21H19F2N3O2
